### PR TITLE
Revm: links for revm eof body

### PR DESCRIPTION
**Pull request by andreadlm**
Partial implementation of links for revm body.

### CODE REVIEW

File: CoqOfRust/alloc/vec/links/mod.v [hunk 1]
```diff
@@ -1,18 +1,94 @@
...
+        // matches the definition of `T::MAX_SLICE_LEN`.
+        unsafe { intrinsics::assume(len <= T::MAX_SLICE_LEN) };
+
+        len
+    }
+  *)
+  Definition run_len {T A : Set} `{Link T} `{Link A} (self : Ref.t Pointer.Kind.Ref (Self T A)) : 
+    {{ vec.Impl_alloc_vec_Vec_T_A.len (Φ T) (Φ A) [] [] [φ self] 🔽 Usize.t }}.
+  Admitted.
+End Impl_alloc_vec_Vec_T_A.
```
Comment (clarus) [inline CoqOfRust/alloc/vec/links/mod.v:94]: With an end line at the end of the file

File: CoqOfRust/core/links/option.v [hunk 2]
```diff
@@ -67,3 +70,23 @@ Module Option.
...
+    (Run_FnOnce_for_F :
+      function.FnOnce.Run
+        F
+        T
+        (Output := U)
+    )
+    (self: Self T) (f : F) :
+    {{ option.Impl_core_option_Option_T.map (Φ T) [] [ Φ U; Φ F ] [ φ self; φ f ] 🔽 option U }}.
+    Admitted.
+End Impl_Option.
```
Comment (clarus) [inline CoqOfRust/core/links/option.v:92]: Same here

File: CoqOfRust/core/slice/links/mod.v [hunk 3]
```diff
@@ -0,0 +1,37 @@
...
+    destruct run_SliceIndex_for_I.
+    destruct get as [get [H_get run_get]].
+    run_symbolic.
+    eapply Run.Rewrite. {
+      (* TODO: fix in the translation *)
+      erewrite IsTraitAssociatedType_eq; admit.
+    }
+    run_symbolic.
+  Admitted.
+End Impl_Slice.
```
Comment (clarus) [inline CoqOfRust/core/slice/links/mod.v:37]: Same here

File: CoqOfRust/core/slice/links/mod.v [hunk 4]
```diff
@@ -0,0 +1,37 @@
...
+      (run_SliceIndex_for_I : SliceIndex.Run I (T := Self T) (Output := Output))
+      (self : Ref.t Pointer.Kind.Ref (Self T)) 
+      (index : I) :
+    {{ slice.Impl_slice_T.get (Φ T) [] [ Φ I ] [ φ self; φ index ] 🔽 option Output }}.
+  Proof.
+    destruct run_SliceIndex_for_I.
+    destruct get as [get [H_get run_get]].
+    run_symbolic.
+    eapply Run.Rewrite. {
+      (* TODO: fix in the translation *)
```
Comment (clarus) [inline CoqOfRust/core/slice/links/mod.v:32]: It should be fixed now; you can try again! :)

File: CoqOfRust/revm/revm_bytecode/eof/links/body.v [hunk 5]
```diff
@@ -27,4 +40,406 @@ Module EofBody.
...
+      ).
+      apply H.
+      pose proof (Impl_SliceIndex_for_Usize.run Usize.t).
+      cbn.
+      unfold Impl_Slice.Self.
+      cbn.
+  Admitted.
+
+  (*
+  pub fn into_eof(self) -> Eof {
```
Comment (clarus) [inline CoqOfRust/revm/revm_bytecode/eof/links/body.v:301]: I think that now that we have enough automation we can restrict ourselves to only copy the type of the functions in comments

File: CoqOfRust/revm/revm_bytecode/eof/links/body.v [hunk 6]
```diff
@@ -27,4 +40,406 @@ Module EofBody.
...
+    run_symbolic_let. { 
+      run_symbolic.
+      run_symbolic_closure. {
+        apply Impl_alloc_vec_Vec_T_A.run_len.
+      }
+      intros []; run_symbolic.
+  Admitted.
+
+  (*
+    pub fn eof_code_section_start(&self, idx: usize) -> Option<usize> {
```
Comment (clarus) [inline CoqOfRust/revm/revm_bytecode/eof/links/body.v:347]: Same here

File: CoqOfRust/revm/revm_bytecode/eof/links/body_EofBody.v [hunk 7]
```diff
@@ -0,0 +1,172 @@
...
+    |}.
+
+    Lemma get_is_data_filled_is_valid :
+      SubPointer.Runner.Valid.t get_is_data_filled.
+    Proof.
+      now constructor.
+    Qed.
+    Smpl Add apply get_is_data_filled_is_valid : run_sub_pointer.
+  End SubPointer.
+End EofBody.
```
Comment (clarus) [inline CoqOfRust/revm/revm_bytecode/eof/links/body_EofBody.v:172]: End of line
